US08048909B2
4-Methyl-1-[(4-methylphenyl)sulfonyl]-5-phenyl-1H-pyrrole-3-carbaldehyde
A solution of (10 mL) ethyl 4-methyl-1-[(4-methylphenyl)sulfonyl]-5-phenyl-1H-pyrrole-3-carboxylate (420 mg) in tetrahydrofuran was cooled to −78° C., a 1.5 mol/l solution (2.1 mL) of diisobutylaluminum hydride in toluene was added dropwise, and the mixture was further stirred at −78° C. for 30 min. 1 mol/l Hydrochloric acid (10 mL) was added to the reaction mixture, and the mixture was stirred at room temperature and extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. A solution (15 mL) of the residue in acetonitrile was cooled to −78° C., tetra-n-propylammonium perruthenate (37 mg), N-methylmorpholine N-oxide (185 mg) and molecular sieves 4A powder (1.0 g) were added, and the mixture was stirred at room temperature for 1 hr. The reaction mixture was concentrated under reduced pressure, and the residue was suspended in ethyl acetate and filtered through celite. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=9:1→1:1) to give the title compound as a brown oil (yield 320 mg, 90%).

reactant | ethyl 4-methyl-1-[(4-methylphenyl)sulfonyl]-5-phenyl-1H-pyrrole-3-carboxylate | 10 mL, 420 mg | CC=1C(=CN(C1C1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)C)C(=O)OCC | C21H21NO4S
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | Hydrochloric acid | 1 mol/l, 10 mL | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-Methyl-1-[(4-methylphenyl)sulfonyl]-5-phenyl-1H-pyrrole-3-carbaldehyde | yield 320 mg, 90% | CC=1C(=CN(C1C1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)C)C=O | C19H17NO3S
